US03947445
2,5-Dibenzyl-2,5-diazabicyclo[2.2.2]octane-3,6-dione
A hot solution of 36.6 g (0.262 mole) of 2,5-diazabicyclo[2.2.2]octane-3,6-dione in 800 ml dry dimethylformamide was added rapidly from a dropping funnel to 12.5 g (0.52 mole) of oil-free sodium hydride. After stirring for 1 hour, the mixture was chilled and treated with 67.5 ml (0.59 mole) benzyl chloride during a period of a few minutes. After stirring at room temperature for 18 hours, 1 liter of water was added cautiously, and the mixture was extracted with chloroform. The extracts were washed with water, dried with sodium sulfate, and evaporated to dryness to yield a crystalline residue. Trituration in diethyl ether provided 77.0 g (91%) of product as colorless needles, melting point 168°-170°C.

reactant | 2,5-diazabicyclo[2.2.2]octane-3,6-dione | 0.262 mole, 36.6 g | C12NC(C(NC1=O)CC2)=O | C6H8N2O2
reactant | sodium hydride | 0.52 mole, 12.5 g | [H-].[Na+]
reactant | benzyl chloride | 0.59 mole, 67.5 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 1 liter | O | H2O
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,5-Dibenzyl-2,5-diazabicyclo[2.2.2]octane-3,6-dione | 77.0 g, 91% | C(C1=CC=CC=C1)N1C2C(N(C(C1=O)CC2)CC2=CC=CC=C2)=O | C20H20N2O2
